US09388189B2
(S)-2-(1-((6-Amino-5-(5-(difluoromethyl)pyridin-3-yl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (81 mg, 0.18 mmol) was treated with 3-(difluoromethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (237 mg, 0.93 mmol, prepared according to WO2012/087237), sodium carbonate (2M, 700 μl, 1.40 mmol) and 1,1-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (20 mg, 0.02 mmol) according to the method described in Example 3 to give 3 mg (3% yield) of the title compound. Purity 98%.

reactant | (S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.18 mmol, 81 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C19H18BrN7O
reactant | 3-(difluoromethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.93 mmol, 237 mg | FC(C=1C=NC=C(C1)B1OC(C(O1)(C)C)(C)C)F | C12H16BF2NO2
reactant | sodium carbonate | 1.40 mmol, 2M, 700 μl | C([O-])([O-])=O.[Na+].[Na+]
product | (S)-2-(1-((6-Amino-5-(5-(difluoromethyl)pyridin-3-yl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 3 mg, 3% yield | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)C=2C=NC=C(C2)C(F)F | C25H22F2N8O
